US06756378B2
To a cooled (0° C.) solution of methyl (S)-4-(2-amino-1-propoxy)benzoate (790 mg, 3.78 mmol) and Et3N (630 ml, 4.52 mmol) in THF (10 ml) was added TFAA (640 ml, 4.53 mmol) and the reaction mixture was stirred at room temperature for 4 days. The mixture was diluted with 0.5 N HCl and extracted with CHCl3. The extract was washed with brine, dried over K2CO3, and evaporated. The residue was purified by recrystallization from n-hexane-CHCl3 to give methyl (S)-4-[2-(trifluoroacetamido)-1-propoxy]benzoate (790 mg, 69%) as a white crystalline material. 1H-NMR (CDCl3) δ1.42 (d, J=6.8 Hz, 3 H), 3.89 (s, 3 H), 4.01-4.13 (m, 2 H), 4.44-4.50 (m, 1 H), 6.57-6.61 (m, 1 H), 6.92 (d, J=9.0 Hz, 2 H), 8.00 (d, J=9.0 Hz, 2 H); MS (FAB) m/z 306 (M++1); Anal. Calcd. for C13H14F3NO4: C, 51.15; H 4.62; F, 18.67; N, 4.59. Found: C, 51.14; H, 4.60; F, 18.50; N, 4.54.

reactant | methyl (S)-4-(2-amino-1-propoxy)benzoate | 3.78 mmol, 790 mg | N[C@H](COC1=CC=C(C(=O)OC)C=C1)C | C11H15NO3
reactant | Et3N | 4.52 mmol, 630 ml | CCN(CC)CC | C6H15N
reactant | TFAA | 4.53 mmol, 640 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | HCl | 0.5 N | Cl | ClH
product | methyl (S)-4-[2-(trifluoroacetamido)-1-propoxy]benzoate | 790 mg, 69% | FC(C(=O)N[C@H](COC1=CC=C(C(=O)OC)C=C1)C)(F)F | C13H14F3NO4
